US07253286B2
4-{[2-(4-Chlorobutyrylamino)-4-pyridyl]oxy}aniline
2-Amino-4-(4-nitrophenoxy)pyridine (300 mg), 4-chlorobutyryl chloride (0.18 ml), triethylamine (0.77 ml), dimethylformamide (1 ml) and tetrahydrofuran (1 ml) were stirred at room temperature for 10 minutes, and then silica gel was added to the reaction solution, the solvent was distilled off under reduced pressure and the reaction product was adsorbed on to the silica gel. The silica gel was charged into a dry column packed with silica gel, for column purification (hexane:ethyl acetate=3:1, followed by 2:1 and 1:1). The solvent was distilled off under reduced pressure, and then 300 mg of iron powder, 600 mg of ammonium chloride, 2 ml of DMF, 1 ml of ethanol and 1 ml of water were added to 150 mg of the resulting residue and the mixture was stirred at 100° C. for 20 minutes. After filtration with celite, water and ethyl acetate were added for extraction. The organic layer was washed 5 times with aqueous ammonium chloride solution and then dried over magnesium sulfate. The drying agent was filtered off and the solvent was distilled off under reduced pressure-to obtain 110 mg of the target substance as an oil.

reactant | 2-Amino-4-(4-nitrophenoxy)pyridine | 300 mg | NC1=NC=CC(=C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C11H9N3O3
reactant | 4-chlorobutyryl chloride | 0.18 ml | ClCCCC(=O)Cl | C4H6Cl2O
reactant | triethylamine | 0.77 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 4-{[2-(4-Chlorobutyrylamino)-4-pyridyl]oxy}aniline | ClCCCC(=O)NC1=NC=CC(=C1)OC1=CC=C(N)C=C1 | C15H16ClN3O2
